US04910341
Preparation of 1-(β-methoxyethyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene
0.02 mole (5.6 g) of N-[4-(β-methoxyethyl)amino-3-nitrophenyl]oxazolidone, prepared according to Example 7, is added to 13.5 ml of 3N sodium hydroxide and 5.6 ml of 96° strength ethanol.

reactant | N-[4-(β-methoxyethyl)amino-3-nitrophenyl]oxazolidone | 0.02 mole, 5.6 g | COCCNC1=C(C=C(C=C1)N1[CH-]OCC1=O)[N+](=O)[O-]
reactant | sodium hydroxide | 3N, 13.5 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(β-methoxyethyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene | COCCNC1=C(C=C(C=C1)NCCO)[N+](=O)[O-] | C11H17N3O4
